US07829588B2
Methyl 4-iodo-2-phenethyloxybenzoate
A suspension of caesium carbonate (35.2 g, 108 mmol), methyl 4-iodo-2-hydroxybenzoate (25 g, 90 mmol), phenethyl bromide (16 ml, 117 mmol) in DMF (500 ml) is stirred for 10 hours at room temperature. Caesium carbonate (20 g, 61.4 mmol) and phenethyl bromide (8.5 ml, 61.4 mmol) are added to the suspension. The organic phase is acidified at room temperature with a 2N hydrochloric acid solution to pH 5. The desired product is extracted by addition of ethyl ether. The organic phase is washed with water, dried with magnesium sulfate and concentrated using a rotary evaporator.

reactant | caesium carbonate | 108 mmol, 35.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 4-iodo-2-hydroxybenzoate | 90 mmol, 25 g | IC1=CC(=C(C(=O)OC)C=C1)O | C8H7IO3
reactant | phenethyl bromide | 117 mmol, 16 ml | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | Caesium carbonate | 61.4 mmol, 20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | phenethyl bromide | 61.4 mmol, 8.5 ml | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | Methyl 4-iodo-2-phenethyloxybenzoate | IC1=CC(=C(C(=O)OC)C=C1)OCCC1=CC=CC=C1 | C16H15IO3
